US05514654
N-(5-phthalimidopentanoyl)-L-alanyl-D-isoglutamine benzyl ester
L-alanyl-D-isoglutamine benzyl ester hydrochloride (548 mg, 1.6 mmoles) and 5-phthalimidopentanoic acid (400 mg, 1.6 mmoles) were dissolved in N,N-dimethylformamide (8 ml). The solution was cooled to 0° C. and diphenylphosphoryl azide (495 mg, 1.8 mmoles) and triethylamine (323 mg, 3.2 mmoles) were added thereto. The reaction mixture was stirred for 1 hour at 0° C. and for 24 hours at room temperature. The reaction mixture was diluted by ethyl acetate (40 ml) and the organic phase was washed successively with citric acid (0.52M; 3×10 ml), water (3×10 ml), saturated NaCl solution (3×10 ml), saturated NaHCO3 solution (3×10 ml), water (3×10 ml) and saturated NaCl solution (3×10 ml). The organic phase was dried with MgSO4 and filtered, the filtrate was evaporated and the product was precipitated from n-hexane/diethyl ether. The compound was filtered off and crystallized from acetone.

reactant | L-alanyl-D-isoglutamine benzyl ester hydrochloride | 1.6 mmoles, 548 mg | Cl.C(C1=CC=CC=C1)OC(CC[C@@H](NC([C@@H](N)C)=O)C(N)=O)=O
reactant | 5-phthalimidopentanoic acid | 1.6 mmoles, 400 mg | C1(C=2C(C(N1CCCCC(=O)O)=O)=CC=CC2)=O | C13H13NO4
reactant | diphenylphosphoryl azide | 1.8 mmoles, 495 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 3.2 mmoles, 323 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | N-(5-phthalimidopentanoyl)-L-alanyl-D-isoglutamine benzyl ester | C(C1=CC=CC=C1)OC(CC[C@@H](NC([C@@H](NC(CCCCN1C(C=2C(C1=O)=CC=CC2)=O)=O)C)=O)C(N)=O)=O | C28H32N4O7
